US05369106
1-[3,3-Bis(3-chlorophenyl)acryloyl]-4-(3,4-dimethoxybenzoyl)piperazine
0.44 ml of diphenylphosphoryl azide and 0.545 g of 1-[3,3-bis(3-chlorophenyl)acryloyl]piperazine (prepared as described in Preparation 111) were added to 10 ml of a methylene chloride solution containing 0.25 g of 3,4-dimethoxybenzoic acid and 0.38 ml of triethylamine, and the reaction mixture was stirred for 16 hours at room temperature. At the end of this time, the mixture was washed with 10% w/v aqueous hydrochloric acid, with a saturated aqueous solution of sodium bicarbonate and with water, in that order, after which it was dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by medium pressure chromatography using two Lobar B columns eluted with mixtures of hexane and ethyl acetate ranging from 1:2 to 1:4 by volume, to give 0.682 g of the title compound as a white powder.

reactant | diphenylphosphoryl azide | 0.44 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1-[3,3-bis(3-chlorophenyl)acryloyl]piperazine | 0.545 g | ClC=1C=C(C=CC1)C(=CC(=O)N1CCNCC1)C1=CC(=CC=C1)Cl | C19H18Cl2N2O
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 3,4-dimethoxybenzoic acid | 0.25 g | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
solvent | triethylamine | 0.38 ml | C(C)N(CC)CC | C6H15N
product | 1-[3,3-Bis(3-chlorophenyl)acryloyl]-4-(3,4-dimethoxybenzoyl)piperazine | 0.682 g | ClC=1C=C(C=CC1)C(=CC(=O)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O)C1=CC(=CC=C1)Cl | C28H26Cl2N2O4
